US07250410B2
5-(1,1′-biphenyl-4-yl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbp.
Heat at 90° C. for 12 hours under an inert atmosphere a mixture of 100 mg (0.27 mmol) of 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbl), 35 mg (0.30 mmol) of benzene boronic acid, 215 μl of 2M Na2CO3, 25 mg (0.020 mmol) of tetrakis(triphenylphosphine)Pd(0) and 250 μl of EtOH in 5 ml of degassed toluene. Allow to cool to room temperature. Evaporate to dryness. Purify by chromatography (AcOEt). Recrystallize in Et2O. One obtains 62 mg of the abovenamed product in the form of colorless crystals. Yield: 52%. M: 149–150° C. 1H-NMR (CDCl3, 200 MHz): d 1.13 (s, 3H, CH3), 3.78 (s, 3H, OCH3), 3.95 (AB system, ? d=0.57, JAB=13.7, 2H, —NCH2), 3.98 (s, 3H, OCH3), 4.29 (AB system, ? d=0.99 JAB=10.0, 2H, CH2), 6.75 (s, 1H Ar), 6.86 (s, 1H Ar), 7.37–7.75 (m, 9H Ar).

reactant | 5-(4-bromophenyl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.27 mmol, 100 mg | BrC1=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O | C19H19BrN2O3
reactant | benzene boronic acid | 0.30 mmol, 35 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 2M, 215 μl | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH | 250 μl | CCO | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(1,1′-biphenyl-4-yl)-1-ethyl-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 62 mg, Yield: 52% | C1(=CC=C(C=C1)C1=NCC(N(C2=C1C=C(C(=C2)OC)OC)CC)=O)C2=CC=CC=C2 | C25H24N2O3
